US04070361
1-[(2-Mercapto-1-methylethyl)sulfonyl]-L-proline
By substituting 1-[[2-(Acetylthio)-1-methylethyl]-sulfonyl]-L-proline for the 1-[[2-(acetylthio)ethyl]sulfonyl]-L-proline in the procedure of Example 2, 1-[2-mercapto-1-methylethyl)sulfonyl]-L-proline is obtained.

reactant | 1-[[2-(Acetylthio)-1-methylethyl]-sulfonyl]-L-proline | C(C)(=O)SCC(C)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO5S2
reactant | 1-[[2-(acetylthio)ethyl]sulfonyl]-L-proline | C(C)(=O)SCCS(=O)(=O)N1[C@H](C(=O)O)CCC1 | C9H15NO5S2
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 1-[(2-Mercapto-1-methylethyl)sulfonyl]-L-proline | SCC(C)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C8H15NO4S2
